US07777047B2
ethyl 1-(methoxymethyl)-7-{[(2-methoxyphenyl)sulfonyl]amino}-1H-indole-2-carboxylate
To a mixture of ethyl 7-amino-1-(methoxymethyl)-1H-indole-2-carboxylate (12.0 g) and pyridine (100 mL) was added 2-methoxybenzenesulfonyl chloride (10.0 g) under ice-cooling, and the mixture was stirred from under ice-cooling to room temperature for 20 hr. The reaction mixture was concentrated, and the residue was diluted with ethyl acetate. The solution was washed with aqueous citric acid solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane to give the title compound (16.58 g, yield 89%) as pale-gray crystals. melting point: 106-107° C.

reactant | ethyl 7-amino-1-(methoxymethyl)-1H-indole-2-carboxylate | 12.0 g | NC=1C=CC=C2C=C(N(C12)COC)C(=O)OCC | C13H16N2O3
reactant | 2-methoxybenzenesulfonyl chloride | 10.0 g | COC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 1-(methoxymethyl)-7-{[(2-methoxyphenyl)sulfonyl]amino}-1H-indole-2-carboxylate | 16.58 g, yield 89% | COCN1C(=CC2=CC=CC(=C12)NS(=O)(=O)C1=C(C=CC=C1)OC)C(=O)OCC | C20H22N2O6S
